US06982348B2
A mixture of ethyl 3-(4-fluorophenyl)-3-oxopropionate (20 g, 95.1 mmol), 4-fluorobenzyl bromide (18.0 g, 85.6 mmol), potassium carbonate (26.3 g, 0.19 mol) and acetonitrile (300 ml) was stirred at 60° C. for 2 hrs. The reaction solution was concentrated under reduced pressure, water (200 ml) was added, and the mixture was extracted with ethyl acetate (200, 100 ml). The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:toluene=1:1-1:5) to give ethyl 2-(4-fluorobenzyl)-3-(4-fluorophenyl)-3-oxopropionate (19.0 g, 63%) as an oil.

reactant | ethyl 3-(4-fluorophenyl)-3-oxopropionate | 95.1 mmol, 20 g | FC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | 4-fluorobenzyl bromide | 85.6 mmol, 18.0 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | potassium carbonate | 0.19 mol, 26.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | ethyl 2-(4-fluorobenzyl)-3-(4-fluorophenyl)-3-oxopropionate | 19.0 g, 63% | FC1=CC=C(CC(C(=O)OCC)C(=O)C2=CC=C(C=C2)F)C=C1 | C18H16F2O3
